US05670652
Synthesis of (S)-3-methyl-isoleucine ((S)-3,3-dimethyl-norvalin)
6.3 g (0.1 mole) ammonium formate and 1.67 g (10 mmoles) 2-keto-3,3-dimethyl pentanoic acid sodium salt are suspended in 80 ml of water, the pH value is adjusted with ammonia to 8.2, so that the solids dissolve and the volume is adjusted to 100 ml. Subsequently, 14.34 mg (0.02 mmole) NAD+.3H2O cofactor as well as 800 U of leucine dehydrogenase (LeuDH) and 500 U of formate dehydrogenase (FDH) are added. The temperature is set to 32° C. During the reaction the system is gently stirred and the pH value is adjusted to 8.2 via a pH stat unit. After at most 72 h it is demonstrated via determination of degree of conversion by HPLC that the reaction is finished. The reaction solution is adjusted to pH 9.5 with ammonia and subsequently clarified with 2% active charcoal. The almost colourless solution is concentrated at a rotary evaporator, the amino acid is crystallized, is separated via a funnel, is washed three times with little ethanol and is dried overnight under vacuum at 50° C.

reactant | ammonium formate | 0.1 mole, 6.3 g | C(=O)[O-].[NH4+]
reactant | 2-keto-3,3-dimethyl pentanoic acid sodium salt | 10 mmoles, 1.67 g | [Na+].O=C(C(=O)[O-])C(CC)(C)C
reactant | ammonia | N | H3N
reactant | NAD+ | 0.02 mmole, 14.34 mg | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N
reactant | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | formate | C(=O)[O-]
reactant | charcoal | C | CH4
solvent | water | 80 ml | O | H2O
product | (S)-3-methyl-isoleucine | CC([C@H](N)C(=O)O)(C)CC | C7H15NO2
